US07368578B2
{6-[(5-Methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]-3-phenyl-1-benzofuran-2-yl}methanol (1.50 g) was added to thionyl chloride (5 mL) at 0° C., and the mixture was stirred for 1 hr. After concentration of the reaction mixture, saturated aqueous sodium hydrogen carbonate was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 4-{[(2-chloromethyl-3-phenyl-1-benzofuran-6-yl)oxy]methyl}-5-methyl-2-phenyl-1,3-oxazole as colorless crystals (1.43 g, yield 92%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 129-130° C.

reactant | {6-[(5-Methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]-3-phenyl-1-benzofuran-2-yl}methanol | 1.50 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C(=C(O2)CO)C2=CC=CC=C2)C=C1 | C26H21NO4
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-{[(2-chloromethyl-3-phenyl-1-benzofuran-6-yl)oxy]methyl}-5-methyl-2-phenyl-1,3-oxazole | 1.43 g, yield 92% | ClCC=1OC2=C(C1C1=CC=CC=C1)C=CC(=C2)OCC=2N=C(OC2C)C2=CC=CC=C2 | C26H20ClNO3
